US06521643B1
To a solution of N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)imidazol-4-yl)guanidine (200 mg) in dichloromethane (2 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4N, 4 ml), and the mixture was stirred at ambient temperature for 23 hours. The solvent was evaporated under reduced pressure. To the residue was added 2-propanol, and the resultant precipitate was collected by filtration and dried under reduced pressure to give (1-(4-methylpyridin-2-yl)imidazol-4-yl)guanidine dihydrochloride (94 mg).

reactant | N,N′-bis(tert-butoxycarbonyl)-N″-(1-(4-methylpyridin-2-yl)imidazol-4-yl)guanidine | 200 mg | C(C)(C)(C)OC(=O)NC(=NC=1N=CN(C1)C1=NC=CC(=C1)C)NC(=O)OC(C)(C)C | C20H28N6O4
reactant | hydrogen chloride | Cl | ClH
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | 1,4-dioxane | 4N, 4 ml | O1CCOCC1 | C4H8O2
product | (1-(4-methylpyridin-2-yl)imidazol-4-yl)guanidine dihydrochloride | 94 mg | Cl.Cl.CC1=CC(=NC=C1)N1C=NC(=C1)NC(=N)N | InChI=1S/C10H12N6.2ClH/c1-7-2-3-13-9(4-7)16-5-8(14-6-16)15-10(11)12;;/h2-6H,1H3,(H4,11,12,15);2*1H
